US04963590
3,5-Dicyanocatechol
To a solution containing 2,4-dicyano-6-methoxyphenol in 20 ml of dichloromethane 20 ml of 1 molar solution of BBr3 in dichloromethane was added. The solution was stirred overnight at room temperature. Water and hydrochloric acid were added and the mixture was extracted with dichloromethane. The solvent was evaporated. Yield 0.8 g (50%), m.p. 300° C. (decomp.).

reactant | 2,4-dicyano-6-methoxyphenol | C(#N)C1=C(C(=CC(=C1)C#N)OC)O | C9H6N2O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3,5-Dicyanocatechol | C(#N)C1=C(C(O)=CC(=C1)C#N)O | C8H4N2O2
